US04704464
1,2-Diamino-3-(4-chlorophenyl)propane
0.1 mole (20 grams) of 4-chlorophenylalanineamide or hydrochloride were added in small portions to a well stirred suspension of 0.3 mole of LiAlH4 in 250 ml of dry tetrahydrofuran. The mixture was stirred for 24 hours under reflux and subsequently under ice cooling hydrolyzed dropwise with 1.2 moles of H2O. After stirring at room temperature for an additional hour it was filtered off from the hydrolysis products accumulating as a slime-like solid. This residue was extracted for 24 hours with 127 ml of tetrahydrofuran. Filtrate and extract were combined.

reactant | 4-chlorophenylalanineamide | 0.1 mole, 20 grams | ClC1=CC=C(C[C@H](N)C(=O)N)C=C1 | C9H11ClN2O
reactant | hydrochloride | Cl | ClH
reactant | LiAlH4 | 0.3 mole | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 1.2 moles | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1,2-Diamino-3-(4-chlorophenyl)propane | NCC(CC1=CC=C(C=C1)Cl)N | C9H13ClN2
